US07829584B2
Bis-tert-butoxycarbonyl-(7-methyl-isoquinolin-1-yl)amine
Into 676 mg (4.28 mmol) of 7-methyl-isoquinolin-1-ylamine and 10 mg of DMAP in 10 mL of CH2Cl2 was added 2.13 g (9.77 mmol) of (Boc)2O. The mixture was refluxed overnight. The residue after removal of solvent was loaded to a silica gel column and 500 mg (33% conversion) of Boc-protected product was obtained along with 200 mg of recovered starting material. 1H-NMR (300 MHz, CDCl3) δ 8.35 (d, 1H), 7.76 (d, 1H), 7.7 (s, 1H), 7.60 (d, 1H), 7.53 (d, 1H), 2.54 (s, 3H), 1.31 (s, 18H); LC/MS (ESI): calcd mass 358.2. found 359.2 (MH)+.

reactant | 7-methyl-isoquinolin-1-ylamine | 4.28 mmol, 676 mg | CC1=CC=C2C=CN=C(C2=C1)N | C10H10N2
reactant | (Boc)2O | 9.77 mmol, 2.13 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Bis-tert-butoxycarbonyl-(7-methyl-isoquinolin-1-yl)amine | C(C)(C)(C)OC(=O)N(C1=NC=CC2=CC=C(C=C12)C)C(=O)OC(C)(C)C | C20H26N2O4
